US06706716B2
1-(2-Chloroethyl)-4-(2-fluorophenyl)piperazine
Thionyl chloride (1 mL) was added dropwise to an ice-cooled solution of 1-(2-hydroxyethyl)-4-(2-fluorophenyl)piperazine (300 mg) and pyridine (1 mL) in benzene (20 mL). After 30 minutes the solution was brought to room temperature and then the flask was immersed in a 60° C. oil bath for 1 hour. The layers were separated and the aqueous fraction was extracted with ethyl acetate (2×20 mL). The combined organic fractions were dried over sodium sulfate and the solvent was removed in vacuo, giving the desired product as a yellow solid (58.6 mg, 18%). ESI-MS m/z 243 (MH+).

reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-hydroxyethyl)-4-(2-fluorophenyl)piperazine | 300 mg | OCCN1CCN(CC1)C1=C(C=CC=C1)F | C12H17FN2O
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 1-(2-Chloroethyl)-4-(2-fluorophenyl)piperazine | 58.6 mg, 18% | ClCCN1CCN(CC1)C1=C(C=CC=C1)F | C12H16ClFN2
